US05378838
Methyl 3-amino-3-(3-nitrophenyl)propionate (400 mg) was dissolved in 5 mL of methylene chloride and treated with di-tert-butyldicarbonate (428 mg). The reaction mixture was protected from moisture and stirred at room temperature for one hour. Additional amounts of di-tert-butyldicarbonate (100 mg) were added to the reaction mixture after 1 and 2 hours, respectively. Finally, 131 μL of triethylamine was added and stirring was continued for 30 minutes more. The volatiles were removed under reduced pressure and the residual material was passed through a silica gel column (hexane-ethyl acetate elution, 1:1 v/v) to yield 423 mg of methyl 3-tert-butyloxycarbonylamino-3-(3-nitrophenyl)propionate. 383 mg of the latter compound was hydrogenated at atmospheric pressure employing 100 mg of 10% palladium on carbon catalyst in 15 mL of methanol. After two hours the reaction mixture was concentrated and the residue was azeotropically dried with toluene to give 333 mg of the title compound.

reactant | Methyl 3-amino-3-(3-nitrophenyl)propionate | 400 mg | NC(CC(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-] | C10H12N2O4
reactant | di-tert-butyldicarbonate | 428 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert-butyldicarbonate | 100 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 131 μL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | methyl 3-tert-butyloxycarbonylamino-3-(3-nitrophenyl)propionate | 423 mg | C(C)(C)(C)OC(=O)NC(CC(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-] | C15H20N2O6
